US07115616B2
3-(1-Methylpyrazol-4-yl)acrylic acid (86.8 g) was added to a solution of sulphuric acid (20 ml) in methanol (690 ml), and the mixture refluxed for 2.5 hours, cooled, then poured onto ice. The acid was neutralised with aqueous sodium hydroxide and the product extracted into dichloromethane, which was dried and evaporated. Crystallisation from ether/petrol gave methyl 3-(1-methylpyrazol-4-yl)acrylate (89.0 g). 1H-NMR (d6-DMSO) δ 3.77 (3H,s), 3.91 (3H,s), 6.16 (1H,d), 7.54 (1H,s), 7.56 (1H,d), 7.69 (1H,s). (APCI) found (M+H)=167. C8H10N2O2 requires 166.

reactant | 3-(1-Methylpyrazol-4-yl)acrylic acid | 86.8 g | CN1N=CC(=C1)C=CC(=O)O | C7H8N2O2
reactant | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 690 ml | CO | CH4O
product | methyl 3-(1-methylpyrazol-4-yl)acrylate | 89.0 g | CN1N=CC(=C1)C=CC(=O)OC | C8H10N2O2
